US05750545
(1) 6-Chloronicotinic acid 2-amidinohydrazide
To a solution of 6-chloronicotinic acid (10.0 g) in dichloromethane (100 ml) was added dropwise dimethylformamide (10 ml) and thionyl chloride (5.1 ml), and the mixture was stirred for 1 hour with refluxing. The resulting reaction mixture was dropwise added to aminoguanidine hydrochloride (24.6 g) in a 2.2N aqueous sodium hydroxide solution (100 ml) under ice-cooling. After the dropwise addition, the mixture was stirred at said temperature for 10 minutes to give 6.87 g of a pale-brown solid by filtration (yield 51%).

reactant | 6-chloronicotinic acid | 10.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | thionyl chloride | 5.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | aminoguanidine hydrochloride | 24.6 g | C(=N)(N)NN.Cl
reactant | sodium hydroxide | 2.2N, 100 ml | [OH-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Chloronicotinic acid 2-amidinohydrazide | 6.87 g, yield 51% | C(N)(=N)NNC(C1=CN=C(C=C1)Cl)=O | C7H8ClN5O
